US08053457B2
[2-Oxo-2-(4-pyridin-3-ylmethyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester
The title compound is synthesized by condensation of 1-Pyridin-3-ylmethyl-piperazine and N-Boc-glycine analogously to the preparation of Example 2 as a colorless solid; ES-MS: M+H=335.3; HPLC: AtRet=3.93 min.

reactant | 1-Pyridin-3-ylmethyl-piperazine | N1=CC(=CC=C1)CN1CCNCC1 | C10H15N3
reactant | N-Boc-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
product | [2-Oxo-2-(4-pyridin-3-ylmethyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(N1CCN(CC1)CC=1C=NC=CC1)=O)=O | C17H26N4O3
